US20010049385A1
At 0° C., a 1.2 M solution of diisobutylaluminum hydride in toluene (12.3 ml, 14.8 mmol) was added dropwise to a solution of 2-(2,4-dichlorophenoxy)benzonitrile (3.0 g, 11.3 mmol) in THF (30 ml). The reaction mixture was warmed to room temperature and stirred for 16 hours. It was cooled to 0° C. Water (10 ml) was added dropwise. It was warmed to room temperature. The solid was removed by filtration through a plug of celite. The solvent was removed from the filtrate in vacuo. The crude product was purified by flash chromatography on silica (130 g), using ethyl acetate/heptane 1:3 as eluent, to give 800 mg of 2-(2,4-dichlorophenoxy)benzaldehyde.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 14.8 mmol, 12.3 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2,4-dichlorophenoxy)benzonitrile | 11.3 mmol, 3.0 g | ClC1=C(OC2=C(C#N)C=CC=C2)C=CC(=C1)Cl | C13H7Cl2NO
reactant | Water | 10 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(2,4-dichlorophenoxy)benzaldehyde | 800 mg | ClC1=C(OC2=C(C=O)C=CC=C2)C=CC(=C1)Cl | C13H8Cl2O2
